US07932246B2
(3-Azabicyclo[3.1.0]hex-6-yl)quinolin-2-yl-amine
tert-Butyl 6-(quinolin-2-ylamino)-3-azabicyclo[3.1.0]hexane-3-carboxylate (320 mg, 0.98 mmol) was stirred in 4M HCl in dioxane (2 ml) at r.t. under N2 for 15 min. The solvent was then removed in vacuo and the residue dried under high-vacuum and used in the next step without further purification. LCMS purity 91%, m/z 226 [M+H]+.

reactant | tert-Butyl 6-(quinolin-2-ylamino)-3-azabicyclo[3.1.0]hexane-3-carboxylate | 0.98 mmol, 320 mg | N1=C(C=CC2=CC=CC=C12)NC1C2CN(CC12)C(=O)OC(C)(C)C | C19H23N3O2
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (3-Azabicyclo[3.1.0]hex-6-yl)quinolin-2-yl-amine | C12CNCC2C1NC1=NC2=CC=CC=C2C=C1 | C14H15N3
